data/rdb19/train.csv
rxn,smiles,ea
2752,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21]([C:22]([C:23]([H:36])([H:37])[H:38])([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35])([H:33])[H:34])([H:30])([H:31])[H:32]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])=[C:8]([C:9]([H:17])([H:18])[H:19])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:15][C:25]1([H:39])[C:24]([C:22]([C:21]([C:20]([H:30])([H:31])[H:32])([H:33])[H:34])([C:23]([H:36])([H:37])[H:38])[H:35])[C:29]([H:43])=[C:28]([H:42])[C:27]([H:41])=[C:26]1[H:40],40.07485623966204
592,[C:18]([C:19]([C:20]([H:26])([H:27])[H:28])[C:21]#[N:22])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])[H:12])([H:8])([H:9])[H:10].[C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][H:17])([H:13])[C:19]([C:18]([H:23])([H:24])[H:25])([C:20]([H:26])([H:27])[H:28])[C:21]#[N:22],67.32816549111158
4692,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[O:7][H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:17]([C:18]=[O:19])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3](=[C:4]([H:13])[H:14])[C:5](=[O:6])[O:7][H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[H:15][O:20][C:21](=[C:22]([H:27])[H:28])[H:26],73.59269840823254
2493,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:16])([H:17])[H:18])([C:8]([C:9]([H:21])([H:22])[H:23])([H:19])[H:20])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12].[O:24][H:25]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:16])([H:17])[H:18])([C:8]([C:9]([H:21])[H:23])([H:19])[H:20])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12].[H:22][O:24][H:25],8.136525313428137
83,[C:12]([C:13]([C:14](=[C:15]([H:22])[H:23])[H:21])([H:19])[H:20])([H:16])([H:17])[H:18].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:12]([C:13]([C:14](=[C:15]([H:22])[H:23])[H:21])([H:19])[H:20])([H:16])[H:18].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[H:17])([H:6])([H:7])[H:8],29.40711908348021
944,[C:19]([C:20]([C:21]([H:22])[H:23])([N:24]([C:25](=[O:26])[H:32])[H:31])[H:30])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])[H:10].[C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])([H:12])[C:21]([C:20]([C:19]([H:27])([H:28])[H:29])([N:24]([C:25](=[O:26])[H:32])[H:31])[H:30])([H:22])[H:23],65.03729322826257
1330,[C:10]([C:11]([C:12]([H:13])[C:14](=[O:15])[O:16][H:22])([H:20])[H:21])([H:17])([H:18])[H:19].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[H:7][C:12]([C:11]([C:10]([H:17])([H:18])[H:19])([H:20])[H:21])([H:13])[C:14](=[O:15])[O:16][H:22].[O:1]([C:2](=[O:3])[C:4]=[C:5]([H:8])[H:9])[H:6],31.997598723508418
3360,[C:13]([C:14]([C:15]([H:16])[c:17]1[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]([H:31])[c:22]1[H:32])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:1]([C:2](=[C:3][H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7].[H:8][C:15]([C:14]([C:13]([H:23])([H:24])[H:25])([H:26])[H:27])([H:16])[c:17]1[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]([H:31])[c:22]1[H:32],34.94821600645082
263,[C:4]([C:5]([C:6]([C:7]([H:15])([H:16])[H:17])([C:8]([H:18])([H:19])[H:20])[C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12].[O:1]([O:2])[H:3]>>[H:3][C:4]([C:5]([C:6]([C:7]([H:15])([H:16])[H:17])([C:8]([H:18])([H:19])[H:20])[C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:11])[H:12].[O:1][O:2][H:10],46.9241390285606
5147,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[O:29][C:30](=[O:31])[C:32]([H:38])([H:39])[H:40])([H:36])[H:37])([H:33])([H:34])[H:35]>>[C:1]([H:11])([H:12])[H:13].[C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])([H:15])[C:27]([C:26]([C:25]([H:33])([H:34])[H:35])([H:36])[H:37])([H:28])[O:29][C:30](=[O:31])[C:32]([H:38])([H:39])[H:40],64.82866464549443
3374,[C:13]([C:14]([C:15]([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:13]([C:14](=[C:15]([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:8])([H:9])[H:25])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7],33.7209737522644
